US04639408
(1) Synthesis of N-benzenesulfonyl-N-benzoyl-p-toluidine
250 ml of an acetonitrile solution containing 60 g (0.24 mole) of N-benzenesulfonyl-p-toluidine synthesized by the same method as in Synthesis Example 1 and 37 ml (0.27 mole) of triethylamine was cooled to below 10° C. and while maintaining this temperature, 35.8 g (0.26 mole) of benzoyl chloride was added dropwise. After the addition, the mixture was further reacted at room temperature for 30 minutes. The reaction mixture was then added to 1 liter of water. The precipitate was collected by filtration, washed with water and then with methanol to give 80.8 g (0.23 mole) of the captioned compound.

reactant | acetonitrile | 250 ml | C(C)#N | C2H3N
reactant | N-benzenesulfonyl-p-toluidine | 0.24 mole, 60 g | C1(=CC=CC=C1)S(=O)(=O)NC1=CC=C(C=C1)C | C13H13NO2S
reactant | triethylamine | 0.27 mole, 37 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.26 mole, 35.8 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methanol | CO | CH4O
solvent | water | 1 liter | O | H2O
product | N-benzenesulfonyl-N-benzoyl-p-toluidine | 0.23 mole, 80.8 g | C1(=CC=CC=C1)S(=O)(=O)N(C1=CC=C(C=C1)C)C(C1=CC=CC=C1)=O | C20H17NO3S
